US05218109
In 1 ml of methylene chloride was suspended 69 mg of 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde, followed by addition of 0.3 ml of pyridine, and the mixture was stirred with ice-cooling. Then, 5 mg of dimethylaminopyridine was added and 0.15 ml of methyl chlorocarbonate was further added dropwise. After completion of the addition, the reaction mixture was stirred at ambient temperature for 10 hours. This reaction mixture was poured into ice-water and extracted with diethyl ether. The extract was serially washed with cold 1N-HCl, aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 61 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde.

reactant | 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde | 69 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C22H32O3
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methyl chlorocarbonate | 0.15 ml | C(OC)(=O)Cl | C2H3ClO2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 61 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
